US04916233
Such continuous method is carried out as follows: In an apparatus illustrated in FIG. 1, formaldehyde or oligomer thereof, 4-methylimidazole, and 2-aminoethanethiol sulfuric acid are respectively supplied through conduits 1,2, and 3 into a mixing tank 4 and they are thoroughly mixed. The mixture is supplied from the mixing tank 4 into a reactor 6 via a conduit 5. The reaction solution is continuously withdrawn from the reactor 6 via a conduit 7 and then allowed to cool. The cooled liquid is sent to a separator, e.g. an electrodialytic device 10 via a conduit 9. When water is supplied through a conduit 11 as an outer liquid an aqueous solution of 4-methyl-5-[(2-aminoethyl)-thiomethyl]-imidazole is obtained from a conduit 12. As soon as the deposited precipitate is filtered and dried, a crystal of 4-methyl-5-[(2-aminoethyl)-thiomethyl]-imidazole can be obtained as a form of salt. The outer liquid obtained in the electrodialysis is withdrawn through a conduit 13 and supplied to a concentrater 14 thereby concentrating it, the liquid is returned to the reactor 6. In the case of using thiazolidine or salt thereof as the raw material, it is supplied to the mixing tank 4 through the conduit 1 or 3 and optionally the mineral acid is supplied thereto through anyone of the remaining conduit. In the case of using the formaldehyde adduct of cysteamine as the raw material, as shown in FIG. 2, cysteamine and formaldehyde are supplied through conduits 1 and 3, respectively to a mixing tank 4 to form the adduct and then supplied to a reactor 6 through a conduit 4, while supplying 4-methylimidazole to the reactor 6 through a conduit 2a.

reactant | formaldehyde | C=O | CH2O
reactant | 4-methylimidazole | CC=1N=CNC1 | C4H6N2
reactant | 2-aminoethanethiol sulfuric acid | C(CSS(=O)(=O)O)N | C2H7NO3S2
product | 4-methyl-5-[(2-aminoethyl)-thiomethyl]-imidazole | CC=1N=CNC1CSCCN | C7H13N3S
